 -------------- Lab1 TCFE -----------------

* NGSPICE simulation script

* ------ To run like lab assignement uncomment (unc)

* --------- Intructions to print Potential Diff ------------
*print v(n1, n2) = v(n1) - v(n2), if only v(n1) => v2 = 0 (GND) , page 302 ngspice manual

* forces current values to be saved
.options savecurrents


.param R1val = 1.02051254911k 
.param R2val = 2.07133294635k 
.param R3val = 3.10650554224k 
.param R4val = 4.01929064552k 
.param R5val = 3.0844359874k 
.param R6val = 2.01287586659k 
.param R7val = 1.02150900709k 
.param Vsval = 5.07072749268 
.param Cval = 1.00018604098uF 
.param Kbval = 7.26322828319mS 
.param Kdval = 8.05067652194k 

* ------------- Independent Sources 
Vs n1vv GND 5.07072749268
Id n8vv n6vv 1.00018604098m 

Vzero GND nzvv 0.0
*Imaginary source (needed to specify Hc) (unc)

* ------------- Dependent Sources 
Gb n6vv n3vv n2vv n5vv 7.26322828319m
*Ib = Kb*Vb - Kb = 7.26322828319k , Vb = To be calculated

Hc n5vv n8vv Vzero 8.05067652194k
*Vc = Kc*Ic - Kc = 05067652194k , Ic = To be Calculated (unc)
*Vc n5 n7 7.8 ; - Not known! Just for debugg
 

* -------------- Resistors - All in kOhms!
R1 n2vv n1vv 1.02051254911K
R2 n3vv n2vv 2.07133294635K
R3 n2vv n5vv 3.10650554224K
R4 GND n5vv 4.01929064552K
R5 n5vv n6vv 3.0844359874K
R6 nzvv n7vv 2.01287586659K
R7 n7vv n8vv 1.02150900709K

*makes plots in color
*set hcopypscolor=0
*set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

.op
.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "---------Debugging Values-----------"

echo "Potential Difference"
echo "Voltage at Nodes"
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print n1vv
print n2vv
print n3vv
print n5vv
print n6vv
print n7vv
print n8vv
print v(n5vv, n8vv)
print v(n2vv, n5vv)
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r7[i]
print @Gb[i]
print @r6[i]
print @Hc[i]
print @Vs[i]

echo  "op_END"

*quit might help?
*.endc
.end
